US06166006
In 1,2-dichloroethane (50 ml) were suspended p-nitrobenzylaminehydrochloride (3.77 g), 4H-tetrahydropyran-4-one (2 g) and triethylamine (2.8 ml), and to the mixture was added, under ice-cooling, triacetoxy sodium boron hydride (5.92 g). Under nitrogen atmosphere, the mixture was stirred at room temperature for 4 hours, and to the mixture were added, under ice-cooling, acetaldehyde (1.5 ml) and triacetoxy sodium boron hydride (5.92 g). Under nitrogen atmosphere, the mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue was neutralized with sodium hydroxide solution. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column (ethyl acetate/hexane) to give N-(4-nitrobenzyl)-N-(tetrahydropyran-4-yl)ethylamine (4.0 g) as yellow oil.

reactant | p-nitrobenzylaminehydrochloride | 3.77 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | tetrahydropyran-4-one | 2 g | O1CCC(CC1)=O | C5H8O2
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | acetaldehyde | 1.5 ml | C(C)=O | C2H4O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | N-(4-nitrobenzyl)-N-(tetrahydropyran-4-yl)ethylamine | 4.0 g | [N+](=O)([O-])C1=CC=C(CNCCC2CCOCC2)C=C1 | C14H20N2O3
